* e:\esim\adc\adc.cir

.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
xsc1 net-_sc1-pad1_ vin vref vref sky130_fd_pr__pfet_01v8 M=1 W=0.5 L=10
xsc15 tiq1 net-_sc1-pad1_ vref vref sky130_fd_pr__pfet_01v8 
xsc2 net-_sc1-pad1_ vin gnd gnd sky130_fd_pr__nfet_01v8 W=20 L=0.3
xsc3 net-_sc17-pad2_ vin vref vref sky130_fd_pr__pfet_01v8 W=0.5 L=1
xsc17 tiq2 net-_sc17-pad2_ vref vref sky130_fd_pr__pfet_01v8 
xsc4 net-_sc17-pad2_ vin gnd gnd sky130_fd_pr__nfet_01v8 W=12 L=0.3
xsc18 tiq2 net-_sc17-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc5 net-_sc19-pad2_ vin vref vref sky130_fd_pr__pfet_01v8 W=0.42 L=0.18
xsc19 tiq3 net-_sc19-pad2_ vref vref sky130_fd_pr__pfet_01v8 
xsc7 net-_sc21-pad2_ vin vref vref sky130_fd_pr__pfet_01v8 W=2 L=0.18
xsc21 tiq4 net-_sc21-pad2_ vref vref sky130_fd_pr__pfet_01v8 
xsc6 net-_sc19-pad2_ vin gnd gnd sky130_fd_pr__nfet_01v8 W=1 L=0.18
xsc20 tiq3 net-_sc19-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc8 net-_sc21-pad2_ vin gnd gnd sky130_fd_pr__nfet_01v8 W=0.42 L=0.18
xsc22 tiq4 net-_sc21-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc9 net-_sc10-pad1_ vin vref vref sky130_fd_pr__pfet_01v8 W=3 L=0.18
xsc23 tiq5 net-_sc10-pad1_ vref vref sky130_fd_pr__pfet_01v8 
xsc10 net-_sc10-pad1_ vin gnd gnd sky130_fd_pr__nfet_01v8 W=0.42 L=1
xsc24 tiq5 net-_sc10-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc11 net-_sc11-pad1_ vin vref vref sky130_fd_pr__pfet_01v8 W=15 L=0.18
xsc25 tiq6 net-_sc11-pad1_ vref vref sky130_fd_pr__pfet_01v8 
xsc12 net-_sc11-pad1_ vin gnd gnd sky130_fd_pr__nfet_01v8 W=0.42 L=10
xsc26 tiq6 net-_sc11-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc13 net-_sc13-pad1_ vin vref vref sky130_fd_pr__pfet_01v8 W=30 L=0.18
xsc27 tiq7 net-_sc13-pad1_ vref vref sky130_fd_pr__pfet_01v8 
xsc14 net-_sc13-pad1_ vin gnd gnd sky130_fd_pr__nfet_01v8 W=0.42 L=20
xsc28 tiq7 net-_sc13-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc16 tiq1 net-_sc1-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 
vin1  vin gnd sine(0 6 20M 1n 0)
v2 vref gnd  dc 6
* u2  vref plot_v1
* s c m o d e
* u7  net-_u6-pad9_ net-_u6-pad10_ net-_u6-pad11_ y2 y1 y0 dac_bridge_3
* u8  y2 plot_v1
* u9  y1 plot_v1
* u10  y0 plot_v1
* u3  tiq1 tiq2 tiq3 tiq4 tiq5 tiq6 tiq7 gnd net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ adc_bridge_8
* u5  tiq1 plot_v1
* u12  tiq2 plot_v1
* u15  tiq3 plot_v1
* u4  tiq4 plot_v1
* u11  tiq5 plot_v1
* u13  tiq6 plot_v1
* u14  tiq7 plot_v1
* u1  vin plot_v1
* u6  net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u6-pad9_ net-_u6-pad10_ net-_u6-pad11_ swagatika_8to3_mux_based_priorityencoder
a1 [net-_u6-pad9_ net-_u6-pad10_ net-_u6-pad11_ ] [y2 y1 y0 ] u7
a2 [tiq1 tiq2 tiq3 tiq4 tiq5 tiq6 tiq7 gnd ] [net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ ] u3
a3 [net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ ] [net-_u6-pad9_ net-_u6-pad10_ net-_u6-pad11_ ] u6
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0 out_high=5 out_undef=5 input_load=1p t_rise=1n t_fall=1n ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             swagatika_8to3_mux_based_priorityencoder, NgSpice Name: swagatika_8to3_mux_based_priorityencoder
.model u6 swagatika_8to3_mux_based_priorityencoder(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.001e-00 14e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vin) v(tiq1) v(tiq2) v(tiq3) v(tiq4) v(tiq5) v(tiq6) v(tiq7)    
plot v(vref)
plot v(y2)+16 v(y1)+8 v(y0)
.endc
.end